US04251626
In 200 ml of acetonitrile was dissolved 28.5 g (0.1 mol) of (C8H17)2NCH2CH2OH and then 11.5 g (0.1 mol) of methanesulfonyl chloride was added dropwise to the solution with stirring at 10° C. Then, after stirring the mixture for 3 hours at temperatures below 20° C., the reaction mixture was neutralized carefully with a solution of 4 g (0.1 mol) of sodium hydroxide in 40 ml of water. After concentrating the reaction mixture under reduced pressure, the residue was dispersed in 1 liter of water and the product was extracted with 500 ml of ether. The organic layer obtained was dried by anhydrous magnesium sulfate and then ether was distilled away to provide 27.0 g of (C8H17)2NCH2CH2OSO2CH3.

reactant | (C8H17)2NCH2CH2OH | 0.1 mol, 28.5 g | N(CCCCCCCC)(CCCCCCCC)CCO | C18H39NO
reactant | methanesulfonyl chloride | 0.1 mol, 11.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydroxide | 0.1 mol, 4 g | [OH-].[Na+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | water | 40 ml | O | H2O
product | (C8H17)2NCH2CH2OSO2CH3 | 27.0 g | N(CCCCCCCC)(CCCCCCCC)CCOS(=O)(=O)C | C19H41NO3S
